US05643878
a) 2-[2-(Phthalimidoethoxy)-ethoxy]-acetic Acid Ethyl Ester
A solution of 10.5 g (50 mmol) of 2-[2-(chloroethoxy)-ethoxy]-acetic acid ethyl ester (Chemical Abstracts-Registry No. 82227-25-6) in 100 ml of DMF is reacted with 9.25 g (50 mmol) of potassium phthalimide (Fluka, Buchs, Switzerland) and 50 mg of 18-crown-6 ether (1,4,7,10,13,16-hexaoxacyclooctadecane, Fluka, Buchs, Switzerland) and the mixture is stirred for 2.5 h at 100° C. The reaction mixture is cooled and then concentrated under reduced pressure. The residue is taken up in ether and washed twice in each case with water and brine. After drying and concentrating, the title compound is obtained by column chromatography (SiO2, ethyl acetate/hexane: 1/1); TLC Rf (ethyl acetate/hexane: 4/1)=0.45;

reactant | 2-[2-(chloroethoxy)-ethoxy]-acetic acid ethyl ester | 50 mmol, 10.5 g | C(C)OC(COCCOCCCl)=O | C8H15ClO4
reactant | potassium phthalimide | 50 mmol, 9.25 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 18-crown-6 ether | 50 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-[2-(Phthalimidoethoxy)-ethoxy]-acetic Acid Ethyl Ester | C(C)OC(COCCOCCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C16H19NO6
